US05169430
Preparation of N,N,-dimethyl-5-amino-2-chlorobenzenesulfonamide.
A mixture of 200 g of stannous chloride dihydrate and 250 ml of concentrated hydrochloric acid was cooled to 10° C. To the stirred mixture was added 50 g of N,N-dimethyl-2-chloro-5-nitrobenzenesulfonamide (Example A-2 above) in portions maintaining the temperature of 10° C. After removing the cooling bath, the reaction temperature rose to 55° C. and was held for two hours. The reaction mixture was cooled and filtered to remove the complex of the product with stannic chloride. The product was treated with water to decompose the complex and extracted with methylene chloride. Removal of solvent from the dried extract on a rotary evaporator gave 22 g of the title compound as a solid with a melting point of 125°-126° C.

reactant | N,N-dimethyl-2-chloro-5-nitrobenzenesulfonamide | 50 g | CN(S(=O)(=O)C1=C(C=CC(=C1)[N+](=O)[O-])Cl)C | C8H9ClN2O4S
solvent | hydrochloric acid | 250 ml | Cl | ClH
product | N,N,-dimethyl-5-amino-2-chlorobenzenesulfonamide | 22 g | CN(S(=O)(=O)C1=C(C=CC(=C1)N)Cl)C | C8H11ClN2O2S
